US07456177B2
Preparation of 3-Cyclopent-3-enyl-(2-methoxy-pyridin-3-yl)-methanone
Bromo-2,4,6-trimethylbenzene (16.9 g, 85 mmol) was stirred in anhydrous THF (340 mL) at −78° C. under nitrogen and treated with t-BuLi (100 mL of 1.7 M soln. in pentane, 170 mmol) dropwise via an addition funnel over 30 min. A yellow slurry forms and is stirred 1 h. To this was added 2-methoxypyridine (8.45 g, 77.3 mmol) in anhydrous THF (10 mL) over 5 min. The mixture was allowed to warm to 0° C. and stirred for 1 h, then at ambient temperature for 1 h, then recooled to −78° C. and treated with cyclopent-3-enecarboxylic acid methoxy-methyl-amide (12.4 g, 80 mmol) in anhydrous THF (20 mL) over 5 min. The resulting mixture was stirred 18 h (the bath evaporated and the mixture achieved ambient temperatures). The mixture was poured into saturated aqueous NaHCO3 solution (250 mL) and stirred 20 min. The mixture was extracted with Et2O (3×100 mL). The organic layer was washed with H2O (2×100 mL) and saturated aqueous NaCl solution then dried over Na2SO4, filtered and concentrated to an oil (26 g). Purification by chromatography on silica gel eluting first with hexane to remove mesitylene followed by 10% then 20% Et2O/hexanes elutes product, which was concentrated to a clear oil (12.2 g, 75% crude). (TLC 10% Et2O/hexanes Rf 0.36); 1H NMR (400 MHz, CDCl3) δ 8.28 (dd, J=4.9, 2.0 Hz, 1H), 8.02 (m, 1H), 6.97 (m, 1H), 5.65 (s, 2H), 4.03 (s, 3H), 4.17, (m, 1H), 2.67 (m, 4H); GCMS m/z 203 (M)+.

reactant | Bromo-2,4,6-trimethylbenzene | 85 mmol, 16.9 g | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | t-BuLi | [Li]C(C)(C)C
reactant | 2-methoxypyridine | 77.3 mmol, 8.45 g | COC1=NC=CC=C1 | C6H7NO
reactant | cyclopent-3-enecarboxylic acid methoxy-methyl-amide | 80 mmol, 12.4 g | CON(C(=O)C1CC=CC1)C | C8H13NO2
solvent | THF | 340 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Cyclopent-3-enyl-(2-methoxy-pyridin-3-yl)-methanone | C1CC(=CC1)C(=O)C=1C(=NC=CC1)OC | C12H13NO2
